US07259183B2
Preparation of (4-tert-butyl-benzyl)-[2-(3-chloro-2-fluoro-phenyl)-ethyl]-amine
1.2 ml of 4-tert-butylbenzaldehyde (7.14 mmol), 1 g of 2-(3-chloro-2-fluoro-phenyl)-ethylamine hydrochloride (4.76 mmol) and 658 mg of potassium carbonate (4.76 mmol) were suspended in 14 ml methanol at rt, and after stirring for 30 min at rt, were refluxed for 2 h. After cooling down to rt, 270 mg (7.14 mmol) of sodium borohydride were added and after stirring for 5 min at rt, the reaction mixture was refluxed for 2.5 h. After cooling down to rt, the reaction mixture was treated with 1.2 ml 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; EtOAc/heptane 1:4) to give 860 mg light yellow oil (56%). MS (ISP) 320.3 (M+H)+.

reactant | 4-tert-butylbenzaldehyde | 7.14 mmol, 1.2 ml | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | 2-(3-chloro-2-fluoro-phenyl)-ethylamine hydrochloride | 4.76 mmol, 1 g | Cl.ClC=1C(=C(C=CC1)CCN)F
reactant | potassium carbonate | 4.76 mmol, 658 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium borohydride | 7.14 mmol, 270 mg | [BH4-].[Na+]
reactant | HCl | 1 N, 1.2 ml | Cl | ClH
solvent | methanol | 14 ml | CO | CH4O
product | (4-tert-butyl-benzyl)-[2-(3-chloro-2-fluoro-phenyl)-ethyl]-amine | 56% | C(C)(C)(C)C1=CC=C(CNCCC2=C(C(=CC=C2)Cl)F)C=C1 | C19H23ClFN
